US05514699
Dihydroxynaphthalene-2-carboxylic acid (25 g) was dissolved in 500 ml ethanol. To this was added 25 ml thionyl chloride. The solution was heated under reflux for 4 hours. Then the solvent was removed under reduced pressure and the resulting solid dissolved in 500 ml ethyl acetate. The organic phase was washed with aqueous potassium carbonate/potassium acetate (1M in each) (3×350 ml). The organic phase was dried over magnesium sulphate then the solvent removed under reduced pressure to yield ethyl 3,5-dihydroxynaphthalene-2-carboxylate as a yellow solid.

reactant | Dihydroxynaphthalene-2-carboxylic acid | 25 g | OC=1C(=C(C2=CC=CC=C2C1)O)C(=O)O | C11H8O4
reactant | thionyl chloride | 25 ml | S(=O)(Cl)Cl | Cl2OS
reactant | ethanol | 500 ml | C(C)O | C2H6O
product | ethyl 3,5-dihydroxynaphthalene-2-carboxylate | OC=1C(=CC2=CC=CC(=C2C1)O)C(=O)OCC | C13H12O4
